US04044015
B. imidazo[1,5-a]pyridine
To 13.6 g. of 2-formamidomethylpyridine in a round-bottom flask is added 25 ml. of phosphorous oxychloride. Following the exothermic reaction, the reaction mixture is cooled to room temperature, and quenched on crushed ice. The aqueous mixture is treated with sufficient 20% aqueous sodium hydroxide solution to provide a pH of 9-10, and the liberated product extracted into chloroform (3 × 300 ml.). The extracts are combined, dried over sodium sulfate and concentrated to a light brown oil, 14.0 g.

reactant | 2-formamidomethylpyridine | C(=O)NCC1=NC=CC=C1 | C7H8N2O
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | imidazo[1,5-a]pyridine | C=1N=CN2C1C=CC=C2 | C7H6N2
